US07067517B2
Methyl-phenyl-carbamic acid 3-acetylamino-phenyl ester
The title product was prepared from 3-acetamidophenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (66%, white solid). HPLC-MS: m/z=285.1 (M+1); Rt: 3.09 min.

reactant | 3-acetamidophenol | C(C)(=O)NC=1C=C(C=CC1)O | C8H9NO2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 3-acetylamino-phenyl ester | C(C)(=O)NC=1C=C(C=CC1)OC(N(C1=CC=CC=C1)C)=O | C16H16N2O3
